US06242598B1
2,4-Bis-(2,4-dihydroxyphenyl)-6-phenyl-s-triazine
Following the procedure of Example 14, the title compound is prepared by the reaction of 2,4-dichloro-6-phenyl-s-triazine and resorcinol.

reactant | 2,4-dichloro-6-phenyl-s-triazine | ClC1=NC(=NC(=N1)Cl)C1=CC=CC=C1 | C9H5Cl2N3
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
product | 2,4-Bis-(2,4-dihydroxyphenyl)-6-phenyl-s-triazine | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=CC=CC=C1 | C21H15N3O4
